US09403846B2
Step 7. Synthesis of rel-N-{[(3S,4R,6R)-6-cyclopropyl-3-(2,4-difluorophenyl)-4-(hydroxymethyl)tetrahydro-2H-pyran-3-yl]carbamothioyl}benzamide (C21)
Benzoyl isothiocyanate (0.540 mL, 4.02 mmol) was added drop-wise to a solution of rel-[(2R,4R,5S)-5-amino-2-cyclopropyl-5-(2,4-difluorophenyl)tetrahydro-2H-pyran-4-yl]methanol (C20) (1.20 g, 4.23 mmol) in dichloromethane (45 mL). After the reaction mixture had stirred at room temperature for 15 hours, it was partitioned between aqueous hydrochloric acid (0.1 M, 20 mL) and dichloromethane (35 mL). The organic layer was washed with saturated aqueous sodium bicarbonate solution (25 mL) and with saturated aqueous sodium chloride solution (25 mL), then dried over sodium sulfate, filtered, and concentrated in vacuo. Purification via silica gel chromatography (Gradient: 0% to 45% ethyl acetate in heptane) provided the product as a white solid. Yield: 1.69 g, 3.78 mmol, 89%. LCMS m/z 447.2 [M+H+]. 1H NMR (400 MHz, CD3CN) δ 11.64 (br s, 1H), 9.28 (br s, 1H), 7.89-7.93 (m, 2H), 7.64-7.69 (m, 1H), 7.52-7.58 (m, 2H), 7.44-7.58 (br m, 1H), 6.86-6.99 (m, 2H), 3.48-3.86 (br m, 2H), 3.35-3.47 (m, 1H), 3.01 (ddd, J=11.3, 7.6, 2.7 Hz, 1H), 2.89-3.0 (br m, 1H), 2.3-2.6 (br m, 1H), 1.96-2.03 (m, 1H), 1.7-1.9 (br m, 1H), 0.90-1.00 (m, 1H), 0.44-0.53 (m, 2H), 0.34-0.40 (m, 1H), 0.26-0.31 (m, 1H).

reactant | Benzoyl isothiocyanate | 4.02 mmol, 0.540 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | rel-[(2R,4R,5S)-5-amino-2-cyclopropyl-5-(2,4-difluorophenyl)tetrahydro-2H-pyran-4-yl]methanol | 4.23 mmol, 1.20 g | N[C@@]1([C@@H](C[C@@H](OC1)C1CC1)CO)C1=C(C=C(C=C1)F)F | C15H19F2NO2
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | rel-N-{[(3S,4R,6R)-6-cyclopropyl-3-(2,4-difluorophenyl)-4-(hydroxymethyl)tetrahydro-2H-pyran-3-yl]carbamothioyl}benzamide | C1(CC1)[C@H]1C[C@H]([C@@](CO1)(C1=C(C=C(C=C1)F)F)NC(=S)NC(C1=CC=CC=C1)=O)CO | C23H24F2N2O3S
